US04126687
A mixture of 4.8 parts of 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one, 5.6 parts of 3-methyl-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one hydrochloride, 7.4 parts of sodium carbonate and 200 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. The reaction mixture is cooled, water is added and the layers are separated. The 4-methyl-2-pentanone-phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is triturated in 4-methyl-2-pentanone. The solid product is filtered off and dried, yielding 4.1 parts (50%) of 8-[3-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-3-methyl-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one; mp. 186° C.

reactant | 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one | ClCCCN1C(NC2=C1C=CC=C2)=O | C10H11ClN2O
reactant | 3-methyl-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one hydrochloride | Cl.CN1CN(C2(C1=O)CCNCC2)C2=CC=CC=C2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 8-[3-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)propyl]-3-methyl-1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | 50% | O=C1NC2=C(N1CCCN1CCC3(C(N(CN3C3=CC=CC=C3)C)=O)CC1)C=CC=C2 | C24H29N5O2
